US05021420
The experiment is carried out as in Example 1, starting with 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (70.3 g), triethylamine (105 cc) and 1(4-hydroxyphenyl)piperazine dihydrobromide (85.2 g) in dimethylformamide (2100 cc). The mixture is heated for 8 hours at boiling point, then cooled to a temperature of about 20° C. Stirring.is continued for 6 hours at this temperature. After purification by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar) with dichloromethane and then a mixture of dichloromethane and ethyl acetate (50-50 vol) as eluant, and recrystallization from boiling acetonitrile (1150 cc), 2-{3-[4-(4-hydroxyphenyl)-1- piperazinyl]propyl}naptho[1,8-cd]isothiazole 1,1-dioxide (20.5 g) is obtained, m.p. 185° C.

reactant | 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 70.3 g | ClCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C13H12ClNO2S
reactant | triethylamine | 105 cc | C(C)N(CC)CC | C6H15N
reactant | 1(4-hydroxyphenyl)piperazine dihydrobromide | 85.2 g | Br.Br.OC1=CC=C(C=C1)N1CCNCC1
solvent | dimethylformamide | 2100 cc | CN(C=O)C | C3H7NO
product | 2-{3-[4-(4-hydroxyphenyl)-1- piperazinyl]propyl}naptho[1,8-cd]isothiazole 1,1-dioxide | 20.5 g | OC1=CC=C(C=C1)N1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C23H25N3O3S
